data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C1C2CCC3(C2)C1(CCC4C3CCC5=C4C=CC(=C5)OC)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC12CCC3C(C14CCC(C4)C2=[O:21])CCC5=C3C=CC(=C5)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
CCCCCC1=CC(=C(C(=C1)O)C2C=C(CCC2[C+:20](C)C)C)[OH:10].O>>CCCCCC1=CC2=C(C3C=C(CCC3[C:20]([OH+:10]2)(C)C)C)C(=C1)O.O 10=20,
[H:20][CH:21]1CCC[C:22]1=[O:23].[OH-:10]>>[H:20][OH:10].C1C[CH:21]=[C:22](C1)[O-:23] 10=20;22,23=23;20,21=21,22
C1=CC(=C(C=C1)[N+]#N)[NH2:10].[N:20]#[O+:21]>>C1=CC(=C(C=C1)[N+]#N)[NH2+:10][N:20]=[O:21] 10=20;20,21=21
[H:20][O:21]C(=O)C.COC1=CC2=C(C=C1)C=C(C=C2)C3(CC=C(N3)C4=CC=CC=C4)[OH:10].O>>[H:20][OH+:10]C1(CC=C(N1)C2=CC=CC=C2)C3=CC4=C(C=C3)C=C(C=C4)OC.CC(=O)[O-:21].O 10=20;20,21=21
C[C:20](=[O:21])[N+]1=CC=C(C=C1)N(C)C.C[O-:10].CC(=O)O>>C[C:20]([N+]1=CC=C(C=C1)N(C)C)([O-:21])[O:10]C.CC(=O)O 10=20;20,21=21
[H:20][O+:21]=C1CCCC2C1(CCCC2(C)C(=O)OC)C.[OH2:10].C1CCOC1.C(CO)O.[Cl-]>>[H:20][OH2+:10].CC12CCCC(C1CCCC2=[O:21])(C)C(=O)OC.C1CCOC1.C(CO)O.[Cl-] 10=20;20,21=21
C1C[N:10](CCN1C2=CC=C(C=C2)[N+](=O)[O-])[C:20]3(CC4CC(C4)C3)[OH2+:21].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].[Na+]>>C1C[N+:10](=[C:20]2CC3CC(C3)C2)CCN1C4=CC=C(C=C4)[N+](=O)[O-].[OH2:21].[BH-](OC(=O)C)(OC(=O)C)OC(=O)C.CC(=O)[O-].[Na+] 10=20;20,21=21
CC1C(C(C(O1)CO[P:20]([O-:10])([O-])(OC(=O)C(CCC(=O)[O-])[NH3+])[O:21]P(=O)([O-])OP(=O)(O)[O-])O)O>>CC1C(C(C(O1)CO[P:20](=[O:10])([O-])OC(=O)C(CCC(=O)[O-])[NH3+])O)O.OP(=O)([O-])OP(=O)([O-:21])[O-] 10=20;20,21=21
[H:20][O+:21]=C(C1CCCCC1)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1CCC(CC1)C(=[O:21])O 10=20;20,21=21
[H:10][BH2-:11]C#N.C1CC[C:20]2=[NH+:21]CCCC2C1>>[H:10][C:20]12CCCCC1CCC[NH:21]2.[BH2:11]C#N 10,11=10,20;20,21=21
[CH:10](=[OH+:11])S>>[CH+:10]([OH:11])S 10,11=11
[H:20][C:21]1(C=C([N+:23](=[C:22]1C)C)C)C(=O)OCC.C[NH2:10].O>>[H:20][NH2+:10]C.CCOC(=O)[C:21]1=[C:22]([N:23](C(=C1)C)C)C.O 10=20;22,23=23;20,21=21,22
[H:20][OH:21].CN1CCC23C4C(CCC2(C1CC5=C3C(=C(C=C5)OC)O4)O)([NH2+]N)[O-:10].C(COCCO)O>>[H:20][O:10]C1(CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3C)O)[NH2+]N.[OH-:21].C(COCCO)O 10=20;20,21=21
[Li][O:10][C:20](C)(C1=CC=CC=C1)[O:21]C(=O)CCC=O>>[Li][O+:10]=[C:20](C)C1=CC=CC=C1.C(CC(=O)[O-:21])C=O 10=20;20,21=21
C1=CC=C(C=C1)[OH:10].C(F)(F)(F)S(=O)(=O)O[S:20](=O)(=[O:21])C(F)(F)F>>C1=CC=C(C=C1)[OH+:10][S:20](=O)(C(F)(F)F)([O-:21])OS(=O)(=O)C(F)(F)F 10=20;20,21=21
CC12CCCC(C1CCC[C:20]2=[O+:21]CCO)(C)C(=O)OC.[OH2:10].C1CCOC1.[Cl-]>>CC1(CCCC2(C1CCC[C:20]2([OH2+:10])[O:21]CCO)C)C(=O)OC.C1CCOC1.[Cl-] 10=20;20,21=21
[H:20][CH:21](CCCC(=O)C)[C:22](=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.CC(=O)CCC[CH:21]=[C:22](C)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C#N)[N+](=O)[O-].[NH2-:10]>>[H:20][NH2:10].[CH-:21](C#N)[N+](=O)[O-] 10=20;20,21=21
[H:20][OH:21].CCSC1CCC(=O)[C-:10]1Br>>[H:20][C:10]1(C(CCC1=O)SCC)Br.[OH-:21] 10=20;20,21=21
C[Si-:10](C)(C)(OS(=O)(=O)C(F)(F)F)[O+:11]1CCOC12CCC3=C(O2)C=CC=C3.C[Si](C)(C)O[Si](C)(C)C>>C1CC2(OCC[O:11]2)OC3=C1C=CC=C3.C[Si:10](C)(C)OS(=O)(=O)C(F)(F)F.C[Si](C)(C)O[Si](C)(C)C 10,11=11
C[Si](C)(C)[CH2:10][K:11].[CH2:20]=[O:21]>>C[Si](C)(C)[CH2:10][CH2:20][O-:21].[K+:11] 10,11=10,20;20,21=21
CC1CC(CC(C(C(C[CH:10](C1)[O:11]S(=O)(=O)C2=CC=C(C=C2)C)CNC(=O)C)COC)C)OC.CC(=O)O>>CC1C[CH+:10]CC(C(C(CC(C1)OC)C)COC)CNC(=O)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:11].CC(=O)O 10,11=11
C1C2=C(C=CC=C2)C(=CCCNC(=O)[O:21][CH2:20][C:10](Cl)(Cl)[Zn:11]Cl)C3=C(O1)C=CC=C3.[OH3+]>>[CH2:20]=[C:10](Cl)Cl.C1C2=C(C=CC=C2)C(=CCCNC(=O)[O-:21])C3=C(O1)C=CC=C3.Cl[Zn+:11].[OH3+] 10,11=10,20;20,21=21
CO[C:20](=[OH+:21])OC.[OH2:10]>>CO[C:20]([OH2+:10])([OH:21])OC 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.[CH2:10]=[CH:11]CCCCC1=CC=CC=C1>>[H:20][CH2:10][CH+:11]CCCCC1=CC=CC=C1.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
C1=CC=C[CH:10]=[CH:11]1.[N+:20](=O)=[O:21]>>C1=C[CH+:11][CH:10](C=C1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CCCOC(=O)C[N-:10]N=N[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.[OH3+]>>CCCOC(=O)C[N:10]1N=N[P:20]1(C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.[OH3+] 10=20,
COC1=C(C2=C(CC3C4C2(CCN3CCC5=CC=CC=C5)[CH:11]=[C:10]([CH+:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-]>>COC1=C(C2=C(CC3C4C2(CCN3CCC5=CC=CC=C5)[CH+:11][C:10](=[CH:20]C4)O)C=C1)O.CO.CS(=O)(=O)O.CS(=O)(=O)[O-] 10,11=10,20
[H:20][C:21]1(C=C[C+:24]([CH:23]=[CH:22]1)CC=CCO)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22][CH:23]=[C:24]1CC=CCO)[N+](=O)[O-] 10=20;20,21=21,22;22,23=23,24
COC1=CC2=C(CCN3C24CC(C=CC4=CC3=O)[O-:10])C=C1.[K+:20].CI.O>>COC1=CC2=C(CCN3C24CC(C=CC4=CC3=O)[O:10][K:20])C=C1.CI.O 10=20,
[H:20][CH:21](C)[CH+:22]C.[OH2:10]>>C[CH:21]=[CH:22]C.[H:20][OH2+:10] 10=20;20,21=21,22
C[N+:11](C)(C1=C(C=CC(=C1)Br)Br)[Fe-:10](Br)(Br)Br>>C[N:11](C)C1=C(C=CC(=C1)Br)Br.[Fe:10](Br)(Br)Br 10,11=11
CC(=O)[O:21][C:20](C)([O-:10])ON=CC(CO)O>>CC(=O)[O-:21].C[C:20](=[O:10])ON=CC(CO)O 10=20;20,21=21
[H:20][O+:21](CCO)C(C1=CC(=CC=C1Br)F)O.CC1=CC=C(C=C1)S(=O)(=O)[O-:10].CC1=CC=CC=C1>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.C1=C(C=C(C(=C1)Br)C(O)[O:21]CCO)F.CC1=CC=CC=C1 10=20;20,21=21
